US05075445
To a solution of phenol (113 mg, 1.2 mmol) in dry dioxan (2.5 ml) was added sodium hydride (60% dispersion in oil; 48 mg, 1.2 mmol). After evolution of hydrogen ceased, 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.25 g, 0.8 mmol) was added and the mixture was stirred at 75° for 3.5 hours. After cooling, water (0.8 ml) and hydrochloric acid (5 M, 0.2 ml) were added and the solution was stirred for 30 minutes at room temperature. The solution was neutralised by addition of aqueous sodium bicarbonate and the solvent was removed. The residue was extracted with chloroform-ethanol (2:1) and the solution purified by column chromatography on silica gel eluting with chloroform-methanol (9:1) to afford 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-phenoxypurine (145 mg, 55%), m.p. 173°-175° C.; δh [(CD3)2SO] 1.48 (1 H, m, 3+-H), 1.78 (2 H, q, J 7.1 Hz, 2'-H), 3.3-3.5 (4 H, m, 2×4'-H), 4.12 (2 H, t, J 7.4 Hz, 1'-H), 4.42 (2 H, t, J 5.1 Hz, D2O exchangeable, 2×OH), 6.35 (2 H, s, D2O exchangeable, 2-NH2), 7.2-7.5 (5 H, m, C6H5), and 7.98 (1 H, s, 8-H).

reactant | phenol | 1.2 mmol, 113 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 0.8 mmol, 0.25 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | hydrochloric acid | 5 M, 0.2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxan | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.8 ml | O | H2O
product | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-phenoxypurine | 145 mg, 55% | NC1=NC(=C2N=CN(C2=N1)CCC(CO)CO)OC1=CC=CC=C1 | C16H19N5O3
